US04623484
108 grams of anisole (1.0 mol) was added to 700 ml of CH2Cl2 in a one-liter round bottom flask and cooled to 0°-5° C. While using ice-bath cooling to maintain the temperature below 10° C., 280 grams of chlorosulfonic acid (1.5 mol) was added dropwise with magnetic stirring over a 4 hour period. The solution was then carefully poured over ice (1500 grams) and the organic layer collected. The solution was washed in the cold 10% NaHCO3, and the organic layer collected, then dried over MgSO4 and filtered. The solvent was removed in a rotary evaporator under aspirator vacuum and crude 4-methoxy- benzenesulfonylchloride (72% yield) was obtained as a red oil in a sufficient state of purity to permit its use without further purification.

reactant | anisole | 1.0 mol, 108 grams | C1(=CC=CC=C1)OC | C7H8O
reactant | chlorosulfonic acid | 1.5 mol, 280 grams | ClS(=O)(=O)O | ClHO3S
solvent | CH2Cl2 | 700 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxy- benzenesulfonylchloride | 72% yield | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
